US07671201B2
Step D Synthesis of 1-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]-2-bromoethane as an Intermediate
A stirred solution of 2.5 grams (0.0075 mole) of 2-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]ethan-1-ol and 3.1 grams (0.0094 mole) of carbon tetrabromide in 150 mL of methylene chloride was cooled to 0-4° C. and 6.0 grams (0.0152 mole) of triphenylphosphine was added portion-wise. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it stirred during an 18 hour period. After this time the reaction mixture was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using 1:5 ethyl acetate:hexane as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 2.7 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]ethan-1-ol | 0.0075 mole, 2.5 grams | ClC(=CCOC1=CC(=C(OCCO)C(=C1)Cl)Cl)Cl | C11H10Cl4O3
reactant | carbon tetrabromide | 0.0094 mole, 3.1 grams | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.0152 mole, 6.0 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]-2-bromoethane | 2.7 grams | ClC(=CCOC1=CC(=C(OCCBr)C(=C1)Cl)Cl)Cl | C11H9BrCl4O2
